US09290511B2
Sodium hydride (8 mg, 0.16 mmol) was suspended in dry THF (0.5 mL). To this was added 2-(1-piperidyl)ethanol (16 μL, 0.12 mmol) and the reaction stirred for 10 min until effervescence had ceased. Then 4-chloro-5-phenyl-thieno[2,3-d]pyrimidine (20 mg, 0.08 mmol) in dry THF (0.5 mL) was added and the reaction left to stir at room temperature for 72 hrs. The reaction mixture was diluted with water and extracted with DCM. The organic layers were concentrated and the residue purified by preparative TLC (eluent 10% MeOH in DCM) to give 5-phenyl-4-[2-(1-piperidyl)ethoxy]thieno[2,3-d]pyrimidine as a yellow oil (19.4 mg, 72%). LCMS RT=3.03 min. M+1=340.

reactant | Sodium hydride | 0.16 mmol, 8 mg | [H-].[Na+]
reactant | 2-(1-piperidyl)ethanol | 0.12 mmol, 16 μL | N1(CCCCC1)CCO | C7H15NO
reactant | 4-chloro-5-phenyl-thieno[2,3-d]pyrimidine | 0.08 mmol, 20 mg | ClC=1C2=C(N=CN1)SC=C2C2=CC=CC=C2 | C12H7ClN2S
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 5-phenyl-4-[2-(1-piperidyl)ethoxy]thieno[2,3-d]pyrimidine | 19.4 mg, 72% | C1(=CC=CC=C1)C1=CSC=2N=CN=C(C21)OCCN2CCCCC2 | C19H21N3OS
